US04885367
To 20 ml of a pyridine solution containing 2.7 g of 2-cyclohexyloxyaniline was added dropwise 1.8 g of methanesulfonyl chloride under ice cooling with stirring. After completion of the addition, the mixture was stirred at room temperature for 2 hours. The reaction solution was poured into ice water and made acidic with dilute hydrochloric acid. The crystals which formed were collected by filtration, washed with water and dried to give 3.8 g of the crude crystals, which were then recrystallized from ethanol-n hexane to give 3.4 g of N-(2-cyclohexyloxyphenyl)methanesulfonamide.

reactant | 2-cyclohexyloxyaniline | 2.7 g | C1(CCCCC1)OC1=C(N)C=CC=C1 | C12H17NO
reactant | methanesulfonyl chloride | 1.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-cyclohexyloxyphenyl)methanesulfonamide | 3.4 g | C1(CCCCC1)OC1=C(C=CC=C1)NS(=O)(=O)C | C13H19NO3S
